US06969714B2
2-(3-Chloroanilino)-4-(2-methylimidazol-5-yl)pyrimidin
Sodium hydride (45 mg of a 60% suspension in mineral oil, 1.12 mmol) was added to a stirred suspension of 5-(3-dimethylaminoprop-2-en-1-oyl)-2-methylimidazole (100 mg, 0.56 mmol) and 3-chlorophenylguanidine (95 mg, 0.56 mmol) in dry 1-butanol (4.0 ml) under nitrogen. The mixture was stirred at ambient temperature for 15 minutes then heated at 126° C. for 26 hours. The reaction mixture was allowed to cool and the volatiles were removed by evaporation. The residue was suspended in water (20 ml) and acetic acid (67 μl) was added and the solution extracted with DCM (3×20 ml). The extracts were combined, dried (NaSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with DCM/MeOH (100:0 increasing in polarity to 92:8) to give the title compound 33 mg, (21%) as a solid. NMR: 2.35 (s, 3H), 6.95 (d, 1H), 7.23 (d, 1M, 7.30 (t, 1H), 7.67 (s, 1H), 7.72 (s, 1H), 8.05 (s, 1H), 8.43 (d, 1H), 9.62 (s, 1H), 12.15 (s, 1H); m/z: 286.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5-(3-dimethylaminoprop-2-en-1-oyl)-2-methylimidazole | 0.56 mmol, 100 mg | CN(C=CC(=O)C1=CN=C(N1)C)C | C9H13N3O
reactant | 3-chlorophenylguanidine | 0.56 mmol, 95 mg | ClC=1C=C(C=CC1)NC(=N)N | C7H8ClN3
solvent | 1-butanol | 4.0 ml | C(CCC)O | C4H10O
product | 2-(3-Chloroanilino)-4-(2-methylimidazol-5-yl)pyrimidin | 33 mg, 21% | ClC=1C=C(NC2=NC=CC(=N2)C2=CN=C(N2)C)C=CC1 | C14H12ClN5
